US04289766
A mixture of 1.5 g. of 2-methylbenzothiazoline, 1.7 g. of 3-chlorophenyl isothiocyanate, about 100 ml. of chloroform, and a catalytic amount of imidazole was heated at reflux for several hours. Since thin layer chromatographic analysis showed that reaction was not complete and that some 3-chlorophenyl isothiocyanate had been lost, an additional 1.2 g. of the isothiocyanate was added to the reaction mixture which then was heated at reflux for about 16 hours. The solvent was distilled under reduced pressure and the residue was recrystallized from ethanol to give N-(3-chlorophenyl)-2-methylbenzothiazoline-3-carbothioamide, m.p. 120°-2°. The following elemental microanalysis was obtained:

reactant | 2-methylbenzothiazoline | CC=1SC2=C(N1)C=CC=C2 | C8H7NS
reactant | 3-chlorophenyl isothiocyanate | ClC=1C=C(C=CC1)N=C=S | C7H4ClNS
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | isothiocyanate | [N-]=C=S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(3-chlorophenyl)-2-methylbenzothiazoline-3-carbothioamide | ClC=1C=C(C=CC1)NC(=S)N1C(SC2=C1C=CC=C2)C | C15H13ClN2S2
